*$
*PART NUMBER: NJM2747
*MANUFACTURER: NEW JAPAN RADIO 
*OPAMP
*All Rights Reserved Copyright (c) Bee Technologies Inc. 2006
.subckt njm2747 OUTA IN-A IN+A V+ IN+B IN-B OUTB 
+ OUTC IN-C IN+C GND IN+D IN-D OUTD
X_U1 IN+A IN-A V+ GND OUTA njm2747_s
X_U2 IN+B IN-B V+ GND OUTB njm2747_s
X_U3 IN+C IN-C V+ GND OUTC njm2747_s
X_U4 IN+D IN-D V+ GND OUTD njm2747_s
.ends njm2747
.subckt njm2747_s  1 2 3 4 5
  c1   11 12 .79386E-12
  c2    6  7 28.300E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 373.25E3 -1E3 1E3 370E3 -370E3
  ga    6  0 11 12 1.9038E-3
  gcm   0  6 10 99 321.43E-9
  iee   3 10 dc 99.200E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 525.26
  rc2   4 12 525.26
  re1  13 10 2.7495
  re2  14 10 2.7495
  ree  10 99 2.0161E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 83.471
  vb    9  0 dc 0
  vc    3 53 dc .89791
  ve   54  4 dc .8085
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=494.75)
.model qx2 PNP(Is=842.2140E-18 Bf=495.25)
.ends njm2747_s
*$
